US08859591B2
To a 0° C. solution of 4-(trifluoromethyl)-1H-imidazole (1.82 g, 13.4 mmol) in DMF (20 mL) was added sodium hydride (0.81 g, 20.1 mmol). The mixture was stirred at room temperature for 1 h. The crude 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate prepared above (4.0 g, 13.4 mmol) was added. The mixture was stirred at 80° C. for 12 h. The reaction was diluted with water and extracted with ethyl acetate (30 mL×3). The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude material was purified by silica gel chromatography to give 1-(2,6-dimethyl-4-nitrophenyl)-4-(trifluoromethyl)-1H-imidazole (805 mg, 21%) as a colorless solid. 1H NMR (400 MHz, CDCl3) δ 8.01 (s, 2H), 7.47 (s, 1H), 7.23 (s, 1H), 2.11 (s, 6H).

reactant | 4-(trifluoromethyl)-1H-imidazole | 13.4 mmol, 1.82 g | FC(C=1N=CNC1)(F)F | C4H3F3N2
reactant | sodium hydride | 20.1 mmol, 0.81 g | [H-].[Na+]
reactant | 2,6-dimethyl-4-nitrophenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)(F)F | C9H8F3NO5S
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(2,6-dimethyl-4-nitrophenyl)-4-(trifluoromethyl)-1H-imidazole | 805 mg, 21% | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N1C=NC(=C1)C(F)(F)F | C12H10F3N3O2
